US07482341B2
Step C]: N-(5-Cyclopropylmethoxymethyl-pyridin-2-yl)-2,2-dimethyl-propionamide
This material was prepared in analogy to example 86 step A] from N-(5-hydroxymethyl-pyridin-2-yl)-2,2-dimethyl-propionamide (1.04 g) and bromomethyl cyclopropane (0.813 g) as a light yellow oil (0.87 g). MS (ESI): 263.1. (MH+).

reactant | N-(5-hydroxymethyl-pyridin-2-yl)-2,2-dimethyl-propionamide | 1.04 g | OCC=1C=CC(=NC1)NC(C(C)(C)C)=O | C11H16N2O2
reactant | bromomethyl cyclopropane | 0.813 g | BrCC1CC1 | C4H7Br
product | N-(5-Cyclopropylmethoxymethyl-pyridin-2-yl)-2,2-dimethyl-propionamide | C1(CC1)COCC=1C=CC(=NC1)NC(C(C)(C)C)=O | C15H22N2O2
